US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-hydroxyethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
The title compound was prepared following the general procedures described above for the synthesis of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aziridin-1-ylmethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid using 2-bromoethanol as the alkylating reagent in step 1. The product was isolated as a white solid (21.9 mg, 79.9%). LCMS: m/e 588.9 (MH+), 2.373 min (method 9). 1H NMR (500 MHz, DMSO-d6) δ 7.88 (d, J=8.2 Hz, 2H), 7.23 (d, J=8.2 Hz, 2H), 5.25 (d, J=4.9 Hz, 1H), 4.72 (s, 1H), 4.61 (s, 1H), 3.74 (m, 2H), 3.14 (br. s., 1H), 3.08 (m, 2H), 2.80-2.68 (m, 1H), 2.45 (m, 1H), 2.12-1.94 (m, 2H), 1.93-1.79 (m, 2H), 1.74-1.58 (m, 8H), 1.57-1.29 (m, 8H), 1.28-1.13 (m, 4H), 1.08 (s, 4H) 1.00 (3H, s), 0.96 (3H, s), 0.91 (6H, s).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aziridin-1-ylmethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | N1(CC1)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C39H55NO2
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-hydroxyethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | OCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C39H57NO3
